Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"It was a big mess." 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
___, including Dr. ___ initial consultation 
note dated ___ initial note dated 
___. 
. 
Briefly, this is a ___ year old married, domiciled man with prior 
diagnosis of BPAD vs. schizoaffective disorder s/p 3 prior 
psychiatric hospitalizations, no history of prior suicide 
attempts, who presented to ___ ED via EMS after an altercation 
at ___ with subsequent admission to ___ due to 
concerns of mania/psychosis.  
. 
Per ED report, patient was at the ___ to see his 
mistress when he became engaged in a verbal altercation with 
another hotel guest; police were called and the patient 
reportedly attempted to bite a police officer. Required chemical 
restraint with Haldol 5 mg and Ativan 2 mg upon arrival due to
significant agitation. 
. 
Upon initial examination in ED, Mr. ___ reported he is here 
after "fistcuffs" in an elevator in the ___ Hotel, stating he 
was protecting himself and has done nothing wrong. He told Dr. 
___ was "the ___ of ___ Reported he had been at 
the ___ for a meeting with ___ that 
she had invited him to, and then went on to describe that he was 
in the elevator after receiving "lots of help" from people in 
the
hotel to get to the second floor. In the elevator he met a man 
who was agitating him and then engaged in "Fisticups." Patient 
reported this was the first "fisticuffs" and could not 
specifically tell him what agitated him. 
. 
Per collateral obtained from Mr. ___ parents (father is 
reportedly his guardian, but this is unconfirmed): Patient is 
seen in the community for treatment and carries a diagnosis of 
schizoaffective disorder with prior diagnosis of bipolar. 
Mother\ had not seen him recently and over the past couple of 
weeks he had told his parents he's busy, which has been a sign 
that something is amiss. No suicide attempts. 
.
On my interview with Mr. ___, who was calmer and cooperative= 
on examination but remained a limited historian, he stated that 
he came to the hospital because "of confusion... it sounds like 
it was a big thing but it only lasted a few minutes and that led 
to my arm being damaged... I'm emotionally upset and want to 
move on." Stated, "I don't know what I was doing but every ___ 
years
something like this happens." Reported a history of bipolar, 
stating that is generally "on the depressed end." Admitted that 
for the past two weeks, in order to treat his depression, he had 
been taking extra Wellbutrin, about 450 mg per day. Admitted he 
had been feeling manic, but stated he did not feel it was 
"excessive." 
. 
Mr. ___ stated he last felt "fine" about a week ago and has 
recently been "very happy." Reported he is unemployed and that 
he spends his time writing poetry, "I have some properties and 
have some leisure time," and stated he also spends time at 
___, where he has been for several weeks ago. Admitted 
that recently he had not been sleeping well, on ___ he only 
slept
several hours and did not sleep at all on ___ night. 
. 
Prior to presentation, patient stated he had been on Twitter 
following ___. Noted that "someone had been tweeting 
things and info and it had been going on every day, I got the 
info and then it led to some kind of a mess." Stated he went to 
___ because he thought "it was the right hotel and no
one told me it was the wrong hotel." Stated that at this time he 
remain confused as to what happened. 
. 
Patient stated his mood continues to be "good," denying SI/HI, 
AVH at this time. Reported paranoia has improved, but stated 
that prior to this he was feeling quite paranoid. Reported some 
increased energy. Denied hypersexuality but stated he used to 
have "numerous girlfriends" in the past. Denied difficulties 
with appetite. Reported chronic urinary frequency, which 
sometimes
keeps him up at night. Also reported history of impulsive 
spending. Denied drug or alcohol abuse. 
. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: bipolar disorder/schizoaffective disorder
- SA/SIB: denies/denies 
- Hospitalizations: s/p 3 prior psychiatric hospitalizations
including ___ and ___  
- Psychiatrist: Dr. ___ 
- Therapist: ___ at ___ Counseling 
- Medication Trials: Wellbutrin, Lamictal, Ativan, Risperidone,
Topamax, Lithium, Seroquel (sedation)
.
Past Medical History: 
- Denies 

 
Social History:
Substance History:  
- Alcohol: denies
- Illicits: denies
- Tobacco: denies
.
Social History: ___
Family History:
Family History: 
- Diagnoses: denies
- Suicides: denies 
- Addictions: denies 

 
Physical Exam:
___ 1613 Temp: 98.2 PO BP: 140/86 HR: 102 O2 sat: 94% 

General: obese middle-aged male in NAD. Well-nourished,
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: LUE in sling
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:

Cranial Nerves:
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: deferred due to humerus fracture 
-Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: ___ ___nd bilateral lower extremities.
LUE deferred. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia
 
Pertinent Results:
___ 02:10AM   GLUCOSE-104* UREA N-29* CREAT-1.6* SODIUM-141 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-21* ANION GAP-14
___ 02:10AM   PLT COUNT-128*
___ 08:39PM   LACTATE-1.1
___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:00PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 07:00PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:20PM   GLUCOSE-127* UREA N-29* CREAT-1.8* SODIUM-138 
POTASSIUM-4.9 CHLORIDE-102 TOTAL CO2-18* ANION GAP-18
___ 04:20PM   estGFR-Using this
___ 04:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:20PM   WBC-15.0* RBC-4.91 HGB-15.6 HCT-43.7 MCV-89 
MCH-31.8 MCHC-35.7 RDW-12.0 RDWSD-39.2
___ 04:20PM   NEUTS-76.5* LYMPHS-11.9* MONOS-10.1 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-11.52* AbsLymp-1.78 AbsMono-1.51* 
AbsEos-0.01* AbsBaso-0.04
___ 04:20PM   PLT COUNT-206
 
Brief Hospital Course:
This is a ___ year old married, domiciled man with prior 
diagnosis of BPAD vs. schizoaffective disorder s/p 3 prior 
psychiatric hospitalizations, no history of prior suicide 
attempts, who presented to ___ ED via EMS after an altercation
at ___ with subsequent admission to ___ due to 
concerns of mania/psychosis. 
. 
History and presentation are consistent with affective psychosis 
with prior diagnosis of bipolar disorder with most recent 
episode manic with psychotic features with decreased need for 
sleep, increased impulsivity, paranoia, rapid speech, agitation, 
grandiosity. Episode seems to be triggered by patient increasing 
his Wellbutrin dose. Patient also with history of depression 
with SI in the past. Of note, nothing in his medical history to 
suggest that an underlying medical condition is contributing to 
his current presentation, lab exam is relatively unremarkable 
(although appears to have some CKD with acute on chronic renal 
failure, likely pre-renal in etiology) and physical exam is 
relatively unremarkable. In addition, nothing in his history to 
suggest history of substance use and toxicology screen was 
negative. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission he declined to sign a CV but did sign one on 
___, which was accepted. Mr. ___ maintained good behavioral 
control throughout his admission on 15 minute checks and did not 
require physical or chemical restraints during his admission. 
. 
#. BPAD: type I, manic, with psychotic features
- medical workup notable for mild transaminitis, acute on 
chronic renal failure.  
- Patient was compliant in meeting with his treatment team and 
participated appropriately in his care, maintaining good 
behavioral control in the milieu. 
- Given mania, Wellbutrin was held during this admission. After 
discussion of the risks and benefits, we increased his 
risperidone to 2 mg po bid, which he tolerated well with 
significant improvement in mania. Lamictal was continued at 200 
mg po bid, which the patient reported he had been compliant 
with. Ativan was offered at 1 mg po prn, but he did not require 
doses. Per the patient's request, Topamax was continued at 100 
mg po qhs. 
- In the setting of holding his Wellbutrin and increased dose of 
risperidone, the patient's condition improved rapidly with 
improvement in insomnia, resolution of paranoia and significant 
improvement in delusional thought content. He consistently 
denied suicidal ideation or thoughts of self harm during his 
hospitalization and by time of discharge, his thought process 
was notably linear, logical, goal and future oriented. 
- A family meeting was held with his mother, who stated she felt 
the patient had returned to his baseline. The family felt 
comfortable having him return home with follow up with a partial 
hospitalization program. Of note, I attempted to reach out to 
his father but did not hear back from him prior to discharge. It 
was unclear if patient had an outpatient ___ guardianship. 
. 
#. s/p Left humeral fracture: 
- Orthopedic surgery was consulted, appreciate recs. Patient did 
not require surgery and will follow up in ___ clinic as per 
discharge worksheet. 
- For pain, we started Tylenol ___ mg up to four times daily 
with plan to prescribe on prn basis. For breakthrough pain, 
patient received Oxycodone 10 mg po q8h with good result with 
recommendation to discontinue as soon as possible. 
. 
#. ___: with reported baseline Cr= 1.2 
- Likely pre-renal in etiology. Cr was trended during this 
admission and was 1.3 by time of discharge. He will follow up 
with his PCP upon discharge. 
. 
#. Urinary frequency: chronic, stable during this admission
- Continued Trospium CL 20 mg po bid 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ammonium lactate 12 % topical BID 
2. RisperiDONE 2 mg PO QHS 
3. Topiramate (Topamax) 100 mg PO QHS 
4. LamoTRIgine 200 mg PO BID 
5. BuPROPion XL (Once Daily) 300 mg PO DAILY 
6. Oxybutynin 10 mg PO QHS 
7. LORazepam 0.5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000  mg PR TID PRN pain  
RX *acetaminophen [Acetaminophen Pain Relief] 500 mg 2 tablet(s) 
by mouth three times a day Disp #*20 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 8 hours Disp 
#*15 Tablet Refills:*0 
3.  trospium 20 mg oral BID  
4.  RisperiDONE 2 mg PO BID 
RX *risperidone [Risperdal] 2 mg 1 tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0 
5.  LamoTRIgine 200 mg PO BID  
6.  LORazepam 0.5 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder, type I, most recent episode manic with 
psychotic features 

 
Discharge Condition:
VS: Temp: 97.7 PO BP: 148/87 HR: 113 RR: 20 O2 sat: 95% 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented 
C: awake, alert, responds to questions appropriately 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___